Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysphagia, Dysphonia
 
Major Surgical or Invasive Procedure:
Endoscopic nasojejunal Dobbhoff Placement - ___

 
History of Present Illness:
Ms ___ is a ___ F with history significant for anterior
cervical discectomy and fusion (___) who presents with
dysphagia and dysphonia. 

Per history obtained in the ED, she underwent anterior cervical
discectomy and fusion on ___. Since the surgery, she has
developed dysphagia and dysphonia. On the ___, she was 
evaluated
by Dr. ___, who performed a video stroboscopy and
attributed her symptoms to possible infectious vs idiopathic
ulcerative laryngitis. Patient was prescribed augmentin +
nystatin (last dose this morning @ 6:15AM), ordered an urgent
modified barium swallow and recommended to return if could not
tolerate PO intake for possible admission, IV fluids and
temporary NGT placement. This morning, patient had barium 
swallow
test with nurse ___, which she failed and found not 
safe
for PO intake. Given result, patient was recommended by Dr.
___ to present to the ED for CT neck with IV contrast and
urgent feeding tube.

In the ED, initial vitals were:
09:54 T 98.3 HR 106 BP 108/71 RR 20 SpO2 100% RA

Exam was notable for:
calm, orientedx3, nondistressed
Cardiac: RRR, S1, S2, no murmurs or rubs
Pulm: CTA, no SOB or dyspnea noted, can speak in full sentences,
no drooling noted
Abd: soft, nontender, nondistended.
Extremities: noncyanotic, nonedematous
Skin: normal turgor

Labs were notable for:
- no white count elevation

Studies were notable for: 
CXR - No evidence of aspiration.
CT neck w IV contrast - Rim enhancing collection in the right
lateral neck extending to the anterior cervical plate, as
described above is concerning for abscess.

Consults:
- ENT 
ED contacted Dr. ___ per his evaluation given that patient
failed swallow test this morning and there was concern for
possible aspiration during the test, it would be important to do
a CT neck w IV contrast, place a dobhuff and admit to Medicine 
so
patient can be observed and further work up can be done. 

- Neurosurgery
Per ED, Neurosurgery recommends:
- No acute neurosurgical intervention at this time
- Suggest admission to medicine for dysphagia/nutrition
- ESR and CRP
- Defer Abx therapy to medicine on admission
- Do not think it is infxn given no white count 

On arrival to the floor, patient endorses the above history, and
notes that very little re: symptoms has changed since her 
surgery
on ___.  She underwent the surgery to alleviate symptoms of
tingling and numbness in her hands.  She states that she is
sometimes able to get down some soup, mashed potatoes, but it
takes about 45 minutes.  She notes that she has been taking
antibiotics and antifungal as prescribed by ENT but is not
certain if she should continue.  She says she wears her cervical
collar at all times, unless she is taking shower or sometimes
when eating.  She finished her course of prednisone on ___. 

She has not been taking her statin as the pill is too large. Her
voice has been hoarse since her surgery and has not worsened
since that time. 

She states that her last period was ___, the same date as
her surgery; does not believe she could be pregnant.

Of note, she endorses a slight headache, which she attributes to
not having had anything to eat for almost the whole day. Denies
shortness of breath, chest pain, pain, fever or chills.  Denies
tingling in hands.

 
Past Medical History:
DYSPHAGIA                                                       
HOARSENESS                                                      
C3-C6 ACDF.                                           ___
BREAST IMPLANTS                                       ___   
HYPERLIPIDEMIA
 
Social History:
___
Family History:
She states that she is adopted; she does not know her family
history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ Temp: 97.7 PO BP: 111/71 HR: 89 RR: 18 O2
sat: 94% O2 delivery: RA 
GENERAL: Alert and interactive, conversational blonde female,
appears younger than stated age. In no acute distress.
HEENT: PERRL. Sclera anicteric and without injection. MMM, 
dental
work present.  Unable to visualize posterior pharynx.  
Oropharynx
appears clear.
NECK: Unable to assess cervical lymphadenopathy or JVD, given
cervical collar.  Scar at right upper neck.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. Hoarse, whispered speech.
Speaks in full sentences.  
BACK: No spinal deformity. 
ABDOMEN: Normal bowel sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength ___, good grip strength. Grossly
normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
T 98.3, BP 109/76, HR 96, RR 16, O2 97 RA
General: Pleasant, alert and oriented, no distress
HEENT: Normocephalic, atraumatic.  Hard collar in place.  Mucous
membranes moist.  No obvious pooling of secretions in 
oropharynx.
The right anterior neck she has a well-healed surgical incision,
with no surrounding erythema, warmth, or fluctuance.  Nontender
Cardiovascular: Regular rate and rhythm S1-S2 no murmurs rubs or
gallops. DHT in place in L nare with bridle in place. 
Lungs: Clear bilaterally
Abdomen: Soft nontender nondistended 
Neuro: Strength 5 out of 5 upper extremities lower extremities
bilaterally, sensation is intact and equal bilaterally
 
Pertinent Results:
ADMISSION LABS:
================

___ 12:40PM BLOOD WBC-8.1 RBC-4.16 Hgb-13.0 Hct-40.3 MCV-97 
MCH-31.3 MCHC-32.3 RDW-12.8 RDWSD-45.8 Plt ___
___ 12:40PM BLOOD Neuts-67.6 ___ Monos-4.6* Eos-1.7 
Baso-0.5 Im ___ AbsNeut-5.49 AbsLymp-2.06 AbsMono-0.37 
AbsEos-0.14 AbsBaso-0.04
___ 05:50AM BLOOD ___ PTT-25.8 ___
___ 03:00PM BLOOD Glucose-87 UreaN-7 Creat-0.7 Na-136 K-3.9 
Cl-100 HCO3-25 AnGap-11
___ 05:50AM BLOOD ALT-20 AST-14 AlkPhos-72 TotBili-0.4
___ 05:50AM BLOOD TotProt-6.3* Albumin-3.7 Globuln-2.6 
Calcium-9.2 Phos-3.0 Mg-2.1
___ 03:00PM BLOOD CRP-2.4
___ 01:59PM BLOOD Glucose-85 Creat-0.7 Na-140 K-6.1* Cl-105 
calHCO3-24
___ Test                          Result              
Reference Range/Units
SED RATE BY MODIFIED          14                  < OR = 20 mm/h
___  

DISCHARGE LABS:
=================
___ 05:50AM BLOOD WBC-5.9 RBC-3.95 Hgb-12.4 Hct-38.3 MCV-97 
MCH-31.4 MCHC-32.4 RDW-12.7 RDWSD-45.4 Plt ___
___ 05:56AM BLOOD Glucose-99 UreaN-4* Creat-0.7 Na-142 
K-3.9 Cl-104 HCO3-22 AnGap-16

REPORTS:
=================
___ VIDEO OROPHARYNGEAL SWALLOW:
FINDINGS:  
  
Patient is status post C3-6 ACDF.  There is penetration and 
aspiration of 
thin, nectar thick, and honey thick liquids, as well as 
penetration and 
aspiration of pureed solids.  There is subjective prominence of 
the 
retropharyngeal soft tissues anterior and may be related to the 
ACDF. 
  
IMPRESSION:  
  
Status post C3-6 ACDF with subjective prominence of the 
retropharyngeal soft 
tissues anterior to the ACDF.  Penetration and aspiration with 
liquids and 
pureed solids, as above. 

___ CXR:
PA and lateral views of the chest provided.  Partially 
visualized cervical 
spinal hardware noted.  There is no consolidation to suggest 
pneumonia or 
sequelae of aspiration.  No pleural effusion, pneumothorax or 
signs of 
congestion or edema.  The cardiomediastinal silhouette is 
normal. Imaged 
osseous structures are intact.  No free air below the right 
hemidiaphragm is seen. 

___ CT NECK W/CONTRAST:
FINDINGS:  
  
Patient has undergone anterior cervical discectomy and fusion 
spanning C3 through C6 level with disc spacers in place. The 
hardware appears well positioned. However, along the right 
lateral neck there is a rim enhancing collection along the 
surgical access site extending approximately 6 cm in 
craniocaudal dimension from the level of the hyoid inferiorly to 
the level of the thyroid. This collection measures up to 24 mm 
in transverse dimension on series 2, image 50 where it appears 
to contact the anterior cervical plate. This collection measures 
approximately 10 mm in maximal AP dimension. This collection 
does not appear to extend to the skin surface and does closely 
approximate the right carotid artery. There does appear to be 
extension to the anterior plate along the cervical spine as can 
be seen on series 602, image 33. There is associated mucosal 
thickening of the right posterior and lateral pharyngeal wall. 
No signs of bone destruction or hardware loosening. The 
visualized outline of the thecal sac is unremarkable. 
  
Neck vessels appear patent. The thyroid is unremarkable. There 
is no lymphadenopathy. Lung apices are clear. Salivary glands 
appear normal. No dental complication. Imaged sinuses are well 
aerated as are the mastoid air cells and middle ear cavities. 
  
IMPRESSION:  
  
Rim enhancing collection in the right posterolateral neck 
extending to the 
anterior cervical plate, as described above is concerning for 
abscess. 

___ US NECK, SOFT TISSUE:
  
FINDINGS:  
  
Transverse and sagittal images were obtained of the superficial 
tissues of the right anterior neck.  Re-demonstrated is a vague, 
possible irregular 
hypoechoic collection measuring approximately 2.6 x 1.4 x 1.3 
cm. 
  
IMPRESSION:  
  
Irregular hypoechoic area in the right anterior neck may 
represent abscess 
versus phlegmon. 

___ EGD:
Esophagus-normal mucosa
Stomach-normal mucosa was noted in the whole stomach
Duodenum-normal mucosa noted in the whole examined duodenum.  An 
NJ tube was placed past the third portion of the duodenum.  The 
tube was moved from the mouth into the nose and bridle the 110 
cm.  Tube flushed without difficulty.  Cervical collar was kept 
in place and the procedure was completed with patient in the 
upright seated position.
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
Ms. ___ is a ___ woman status post C3-C6 
anterior cervical discectomy and fusion on ___ who presents with 
ongoing dysphagia and dysphonia as well as decreased nutrient 
intake who was referred to ___ for further management after 
video stroboscopy showed ulcerative versus infectious laryngitis 
and she had a failed swallow study as an outpatient. CT of the 
neck showed a rim-enhancing fluid in the right anterior neck 
concerning for an abscess. She was well-appearing and had no 
clinical or laboratory signs of infection so our neurosurgery 
team did not recommend exploration. Interventional radiology was 
unable to aspirate and drain fluid collection. Infectious 
disease consulted who did not recommend starting antibiotics 
until fluid cultures could be performed. She had multiple 
unsuccessful attempts to place a Dobbhoff tube at the bedside, 
including a left mainstem bronchus tube placement, so 
gastroenterology was consulted to place a nasojejunal tube 
endoscopically. She was started on tube feeds. Ultimately after 
discussion with her outpatient ENT Dr. ___ and the 
neurosurgeon who performed her case Dr. ___ she was 
transferred back to ___ where she 
originally had her surgery for reexploration and washout with 
fluid cultures.

TRANSITIONAL ISSUES:
======================
[ ] We recommend a second form of contraception for at least 7 
days from the time OCPs are restarted
[ ] She should follow up with speech/swallow for swallowing 
rehab as an outpatient
[ ] would recommend checking electrolytes during the next ___ 
days with uptitration of tube feeds to monitor for refeeding. 

ACUTE/ACTIVE ISSUES:
======================
#Dysphagia/dysphonia
#Moderate malnutrition in setting of acute illness/injury
Acute onset after ACDF on ___. She reports minimal improvement. 
She was seen by ENT who did a video stroboscopy which showed 
concern ulcerative laryngitis and she was started on Augmentin 
and clotrimazole. She also had an outpatient swallow study which 
she failed, and due to poor nutrition intake over the last few 
weeks she was recommended to be admitted for nutritional 
supplementation and further work-up. Multiple attempts to place 
a Dobbhoff tube at the bedside were unsuccessful resulting in 
tube placement into the L mainstem bronchus, so ultimately GI 
was consulted to place a ___ tube endoscopically. She 
was started on tube feeds and advanced to goal. She was 
evaluated by speech/swallow who recommended follow up as an 
outpatient for further swallow rehab.

#Status post ACDF ___
A rim-enhancing fluid collection in the right anterior neck was 
seen on CT imaging of the neck, which was concerning for an 
abscess. However she was evaluated by the ___ neurosurgery who 
did not recommend any acute intervention given that she was 
afebrile, had no leukocytosis, and ESR/CRP were both negative. 
She was evaluated by interventional radiology who were unable to 
safely access the fluid collection for drainage. She was 
evaluated by infectious disease who were unclear if this fluid 
collection is truly an abscess versus hematoma/seroma. They 
recommended not starting antibiotics until a sample of the fluid 
collection could be obtained given that the patient was 
otherwise clinically stable. After discussion with the 
Neurosurgeon who performed the case with Dr. ___ 
and ___ outpatient ENT Dr. ___, it was decided to 
transfer her to ___ where she had her 
initial surgery for reexploration and washout with fluid 
cultures.

CHRONIC/STABLE ISSUES:
======================
#Hyperlipidemia
Continue home rosuvastatin.

#Birth control
Patient has missed more than 3 days of her OCP, she should 
resume whenever feasible, however it is important to have a 
secondary form of contraception for at least 7 days when 
sexually active.

#CODE: Full with limited trial. Notes that "if I were in a coma 
or dying, it would be my time." However, when we discussed 
limited trials, such as if she were to be intubated for 
pneumonia, she indicated that she would want intubation and CPR. 
Based on this discussion, we agreed she would "full code with 
limited trial," and then further discussion would be had with 
her boyfriend and mother.

#CONTACT: Health Care Proxy: ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. AMOXicillin Oral Susp. 250 mg PO TID throat ulcers per ENT 
2. Clotrimazole 1 TROC PO FIVE TIMES A DAY 
3. levonorgest-eth.estradiol-iron 0.1 mg-0.02 mg (21)/36.5 mg(7) 
oral daily 
4. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Neutra-Phos 2 PKT PO TID Duration: 3 Doses  
3.  Thiamine 100 mg PO DAILY Duration: 5 Days  
4.  levonorgest-eth.estradiol-iron 0.1 mg-0.02 mg (21)/36.5 
mg(7) oral daily  
5.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
===================
Dysphagia/dysphonia
Moderate malnutrition in the setting of acute illness/injury
Status post C3-C6 anterior cervical discectomy and fusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Ms. ___,
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 -You are admitted to the hospital because you were having 
difficulty swallowing
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 -You had an imaging of your neck which showed a small fluid 
collection which may be contributing to your symptoms
 -You were seen by the neurosurgery team who did not recommend 
any surgical intervention
 -You were seen by the interventional radiology team who were 
unable to drain that fluid collection with a needle
 -You are seen by the infectious disease team who did not 
recommend starting any antibiotics at this time because you were 
feeling well and it is unclear what the fluid collection really 
is

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - please continue to take all of your medications as directed
 - please follow up with all the appointments scheduled with 
your doctor
 - please continue to use a second form of contraception for at 
least 7 days from the start taking your birth control pill again

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  
 
Followup Instructions:
___